* File: nor2_dyn.pex.netlist
* Created: Sun Feb 20 17:09:52 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* 
.include "nor2_dyn.pex.netlist.pex"
.subckt NOR2_DYN  CLK B Y X A GND VDD
* 
* VDD	VDD
* GND	GND
* A	A
* X	X
* Y	Y
* B	B
* CLK	CLK
M0 N_7_M0_d N_CLK_M0_g N_GND_M0_s N_GND_M0_b n L=1.8e-07 W=3.6e-07 AD=3.564e-13
+ AS=3.24e-13
M1 N_X_M1_d N_B_M1_g N_7_M1_s N_GND_M0_b n L=1.8e-07 W=3.6e-07 AD=3.564e-13
+ AS=3.564e-13
M2 N_7_M2_d N_A_M2_g N_X_M2_s N_GND_M0_b n L=1.8e-07 W=3.6e-07 AD=3.24e-13
+ AS=3.564e-13
M3 N_X_M3_d N_CLK_M3_g N_VDD_M3_s N_VDD_M3_b p L=1.8e-07 W=3.6e-07 AD=3.564e-13
+ AS=3.24e-13
M4 N_9_M4_d N_Y_M4_g N_X_M4_s N_VDD_M3_b p L=1.8e-07 W=3.6e-07 AD=1.296e-13
+ AS=3.564e-13
M5 N_VDD_M5_d N_GND_M5_g N_9_M5_s N_VDD_M3_b p L=3.6e-07 W=3.6e-07 AD=3.24e-13
+ AS=1.296e-13
*
.include "or2_dyn.pex.netlist.NOR2_DYN.pxi"
*
.ends
*
*
